US07691877B2
Diphenyl malonate
Malonic acid (11 g, 106 mmol) was mixed with phenol (20 g, 212 mmol) at 0° C. under nitrogen and phosphorus oxychloride (11.5 mL, 123 mmol) was added dropwise to the solid mixture. The resulting mixture was stirred at 0° C. for 5 mins, and then heated at reflux for 5 h, causing the solid to melt and an orange solution to form. The reaction was cooled to room temperature, and then poured onto 100 mL water and extracted with diethyl ether (3×75 mL). The combined organics were washed with brine, dried over MgSO4, concentrated in vacuo to an orange oil of the title compound. (27 g, 99%).

reactant | Malonic acid | 106 mmol, 11 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | phenol | 212 mmol, 20 g | C1(=CC=CC=C1)O | C6H6O
reactant | phosphorus oxychloride | 123 mmol, 11.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 100 mL | O | H2O
product | Diphenyl malonate | C(CC(=O)OC1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C15H12O4
